US08937083B2
Preparation of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(methylamino)-N-(prop-2-yn-1-yl)acetamide
To a solution of tert-butyl (2-((3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)(prop-2-yn-1-yl)amino)-2-oxoethyl)(methyl)carbamate (0.47 g, 1.16 mmol) in DCM (1.16 ml) was added 2,2,2-trifluoroacetic acid (1.16 ml) and the reaction mixture was stirred at ambient temperature for 1 h. To the mixture was added toluene and then the reaction was concentrated to dryness. The oil was redissolved in DCM and saturated NaHCO3 solution was added. The phases were separated and the aqueous phase was extracted with DCM. The organic layers were combined, the solvent evaporated, and the residue purified using silica gel chromatography (0-15% MeOH/DCM) to afford the title compound as yellow oil (0.258 g, 0.849 mmol, 73%): IR (thin film) 1696 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.98 (d, J=2.6 Hz, 1H), 8.64 (dd, J=4.7, 1.3 Hz, 1H), 8.19 (s, 1H), 8.06 (ddd, J=8.3, 2.6, 1.4 Hz, 1H), 7.47 (dd, J=8.3, 4.7 Hz, 1H), 4.48 (s, 2H), 3.49 (s, 2H), 2.49 (s, 3H), 2.28 (t, J=2.5 Hz, 1H); ESIMS m/z 304 ([M+H]+).

reactant | tert-butyl (2-((3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)(prop-2-yn-1-yl)amino)-2-oxoethyl)(methyl)carbamate | 1.16 mmol, 0.47 g | ClC1=NN(C=C1N(C(CN(C(OC(C)(C)C)=O)C)=O)CC#C)C=1C=NC=CC1 | C19H22ClN5O3
reactant | 2,2,2-trifluoroacetic acid | 1.16 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 1.16 ml | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(methylamino)-N-(prop-2-yn-1-yl)acetamide | 0.849 mmol, 0.258 g, 73% | ClC1=NN(C=C1N(C(CNC)=O)CC#C)C=1C=NC=CC1 | C14H14ClN5O
